US08445509B2
Production of 1-(2-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
An aqueous solution (98% sulfuric acid 3 mL, water 3 mL) of 1-(2-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (660 mg, 3.08 mmol) in sulfuric acid was stirred at 130° C. for 6 hr. The reaction solution was cooled to room temperature, water was added, and the precipitated solid was collected by filtration. The obtained solid was washed with ethyl acetate to give the title compound (550 mg, 72%) as a brown solid.

reactant | 1-(2-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 3.08 mmol, 3 mL, 660 mg | FC1=C(C=CC=C1)N1C(C(=CC=C1C)C#N)=O | C13H9FN2O
reactant | water | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(2-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 550 mg, 72% | FC1=C(C=CC=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
